US04863959
To a stirred solution of 10.26 g of crude 3-bromoacetyl-2,5-difluorobenzonitrile in 185 mL of MeOH cooled in ice and under N2 is added 1.48 g of NaBH4. 45 Minutes later, 10% HCl is added until pH 4 is reached. The MeOH is evaporated in vacuo and the residue partitioned between 100 mL of saturated NaHCO3 and 3×50 mL of CH2Cl2. The combined CH2Cl2 extracts are washed with 100 mL of H2O, dried with Na2SO4 and stripped to give 10.23 g of 3-(2-bromo-1-hydroxyethyl)-2,5-difluorobenzonitrile as a brown oil with M+1 ions at 262 and 264 in the mass spectrum.

reactant | 3-bromoacetyl-2,5-difluorobenzonitrile | 10.26 g | BrCC(=O)C=1C(=C(C#N)C=C(C1)F)F | C9H4BrF2NO
reactant | NaBH4 | 1.48 g | [BH4-].[Na+]
reactant | HCl | Cl | ClH
solvent | MeOH | 185 mL | CO | CH4O
product | 3-(2-bromo-1-hydroxyethyl)-2,5-difluorobenzonitrile | 10.23 g | BrCC(O)C=1C(=C(C#N)C=C(C1)F)F | C9H6BrF2NO
